Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p traumatic foley removal after prostatectomy
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ presented to ___ clinic the morning of admission.  
He has some baseline cognitive impairment and reportedly awoke 
mildly confused and unfortunately, he pulled his Foley catheter 
out with the balloon
still inflated.  This was postoperative day #5 from his radical 
prostatectomy.  

 
Past Medical History:
PMH: HTN, obesity, DM (A1c 8.3), smoking, COPD, OSA, GERD, 
Peptic Ulcers, ?dementia?

 
Social History:
___
Family History:
___
 
Physical Exam:
Physical Exam on Date of Discharge:
WdWn male, NAD, AVSS
confused at times but pleasant and alert, interactive, 
cooperative
Abdomen soft, minimaly tender along incisions which are c/d/i 
w/out evidence hematoma, infection
Extremities w/out edema or pitting and no report of calf pain

 
Pertinent Results:
___ 09:22AM BLOOD WBC-5.0 RBC-3.90* Hgb-10.1* Hct-29.9* 
MCV-77* MCH-26.0* MCHC-33.8 RDW-16.4* Plt ___
___ 03:40PM BLOOD WBC-4.5 RBC-3.72* Hgb-9.5* Hct-28.9* 
MCV-78* MCH-25.4* MCHC-32.7 RDW-17.1* Plt ___
___ 09:22AM BLOOD Glucose-182* UreaN-17 Creat-1.4* Na-134 
K-4.2 Cl-100 HCO3-28 AnGap-10
___ 03:40PM BLOOD Glucose-153* UreaN-18 Creat-1.4* Na-138 
K-4.2 Cl-101 HCO3-28 AnGap-13
___:22AM BLOOD Calcium-9.3 Mg-2.0
 
Brief Hospital Course:
Mr. ___ presented to ___ clinic the morning of admission.  
He has some baseline cognitive impairment and reportedly awoke 
mildly confused and unfortunately, he pulled his Foley catheter 
out with the balloon
still inflated.  This was postoperative day #5 from his radical 
prostatectomy.  

Upon presentation, he was clearly incontinent as marked by his 
pants, which were stained with urine leakage. He did not 
complain of any pain or discomfort.  He 
described the desire to void and so was taken to the restroom 
while in clinic. There, he voided a small amount and we scanned 
his bladder, which showed 0 residual, suggesting that he was in 
fact emptying his bladder well.  

He was admitted to the urology service for observation and a 
short course of antibiotics given the traumatic nature of the 
Foley catheter removal.  We will also
check his creatinine and obtain a pelvic ultrasound to rule out 
a collection related to anastomotic leak. His hospital course 
was essentially unremarkable and he was discharged on hospital 
day two.  He was able to void well independently but did have 
some incontinence with walking about and overnight but otherwise 
was doing well. His bladder was scanned several times and the 
post void residuals were minimal each time (less than 50cc) 
regardless of volume voided. 
 
Medications on Admission:
Discharge Medications:
1. bacitracin zinc 500 unit/g Ointment Sig: One (1) Appl Topical 

TID (3 times a day).  
2. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
3. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 

PO Q4H (every 4 hours) as needed for breakthrough pain only 
(score>4).
Disp:*40 Tablet(s)* Refills:*0*
4. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain, fever>100.  
5. nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO twice a day. 

 
8. Namenda 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Aricept 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
10. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 

Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
12. Diovan HCT ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
13. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. metformin 1,000 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
15. pioglitazone 15 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. spironolactone 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. URAXATRAL
YOU NO LONGER NEED THIS MEDICATION AS YOUR PROSTATE HAS BEEN 
REMOVED.
18. Lantus 100 unit/mL Solution Sig: Eight (8) UNITS 
Subcutaneous at bedtime: RESUME pre-admission monitoring and 
dosing.  
19. SLIDING SCALE INSULIN
RESUME PRE-ADMISSION GLUCOSE MONITORING AND INSULIN 
DOSING/TITRATION.
20. Keflex ___ mg Capsule Sig: One (1) Capsule PO three times a 
day for 5 days.
Disp:*15 Capsule(s)* Refills:*0*
21. Cipro 500 mg Tablet Sig: One (1) Tablet PO twice a day for 3 

days: Start taking on day PRIOR to scheduled Foley removal.
Disp:*6 Tablet(s)* Refills:*0*
22. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO three times a 

day as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain, fever.  
2. pioglitazone 15 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
4. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

5. carvedilol 6.25 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
6. valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
7. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
8. spironolactone 25 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
9. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
11. donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
12. Namenda 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
13. sertraline 50 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
14. insulin glargine 100 unit/mL Solution Sig: Zero (0)  
Subcutaneous HS (at bedtime): RESUME PRE ADMISSION INSULIN 
REGIMEN AND MONITORING.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p prostatectomy with traumatic foley removal

 
Discharge Condition:
Mental Status: Confused - always (dementia)
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance of cane at 
baseline

 
Discharge Instructions:
-please discuss resuming your ASPIRIN with Dr. ___ at your 
___ appointment

-Please also reference the additional handout provided by Dr. 
___  with instructions and information about your surgery and 
post-operative plan of care.

-Resume your pre-admission/home medications except as noted. 
Always call to inform, review and discuss any medication changes 

and your post-operative course with your primary care doctor

-___ you have been prescribed IBUPROFEN, please note that you may 

take this in addition to the prescribed NARCOTIC pain 
medications and/or tylenol.    FIRST, alternate Tylenol 
(acetaminophen) and Ibuprofen for pain control.  

-REPLACE the Tylenol with the prescribed narcotic if the 
narcotic is combined with Tylenol (examples include brand names 
___, Tylenol #3 w/ codeine and their generic 
equivalents).  ALWAYS discuss your medications (especially when 
using narcotics or new medications) use with the pharmacist when 

you first retrieve your prescription if you have any questions.  

  Use the narcotic pain medication for break-through pain that 
is >4 on the pain scale.

-The MAXIMUM dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY and remember that the prescribed narcotic 
pain medication may also contain Tylenol (acetaminophen) so this 

needs to be considered when monitoring your daily dose and 
maximum.

-If you are taking Ibuprofen (Brand names include ___ 

this should always be taken with food.  If you develop stomach 
pain or note black stool, stop the Ibuprofen.  Ibuprofen works 
best when taken around the clock.

-Please do NOT drive, operate dangerous machinery, or consume 
alcohol while taking narcotic pain medications.

-As stated, you may resume your pre-admission medications except 

as noted but you no longer need to take medications that shrink 
your prostate (Hytrin, Avodart, etc.) unless advised to continue 

them by the urologist

-Please AVOID aspirin or aspirin containing products unless 
otherwise advised.

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. Do NOT drive while Foley catheter/Leg 

bag are in place.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener--it is NOT a laxative.

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-No heavy lifting for 4 weeks (no more than 10 pounds)

-resume your regular home diet and remember to drink plenty of 
fluids to keep hydrated and to prevent constipation

-___ medical attention for fevers (temp>101.5), worsening pain, 

drainage or excessive bleeding from incision, chest pain or 
shortness of breath.

 
Followup Instructions:
___